US06245746B1
(A) Nα-Boc-Nδ-Cbz-Ornithinyl 2-Benzothiazolyl Thioether
A solution of Nα-Boc-Nδ-Cbz-ornithinol methanesulfonate (100 mg), sodium iodide (70 mg), dimethylformamide (2.5 ml), 2-mercaptobenzothiazole (70 mg) and diisopropylethylamine (85 μl) was stirred at 70° C. for 12 h. After cooling to ambient temperature, the reaction mixture was poured into ethyl acetate and worked up. The crude material was chromatographed over silica gel (20 to 50 % ethyl acetate/hexane) to afford titled product (50 mg) as a white solid: 1H NMR (400 MHz, CDCl3) δ1.39 (s, 9H), 1.58-1.69 (m, 4H), 3.22 (m, 2H), 3.54 (m, 2H), 3.99 (m, 1H), 5.12 (s, 2H), 7.23-7.42 (m, 1H), 7.77 (d, J=10.3 Hz, 1H), and 7.86 (d, J=9.7 Hz, 1H).

reactant | Nα-Boc-Nδ-Cbz-ornithinol methanesulfonate | 100 mg | CS(=O)(=O)OC[C@@H](NC(=O)OC(C)(C)C)CCCNC(=O)OCC1=CC=CC=C1 | C19H30N2O7S
reactant | sodium iodide | 70 mg | [I-].[Na+]
reactant | 2-mercaptobenzothiazole | 70 mg | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | diisopropylethylamine | 85 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | Nα-Boc-Nδ-Cbz-Ornithinyl 2-Benzothiazolyl Thioether | 50 mg | S1C(=NC2=C1C=CC=C2)SC([C@@H](NC(=O)OC(C)(C)C)CCCNC(=O)OCC2=CC=CC=C2)=O | C25H29N3O5S2
